US03934008
2. Z-Ala-Pro-OtBu
10.32 g of Z-Ala-ONP and 5.0 g of H-Pro-OtBu in 10 ml of ethyl acetate are allowed to stand for one hour at 0°C and 15 hours at room temperature. The mixture is then diluted with 100 ml of ethyl acetate, washed with 50 % saturated potassium carbonate solution and water, dried over sodium sulphate and evaporated. The resulting oil is homogeneous according to a thin layer chromatogram on silica gel (Rf = 0.65 in the system chloroform-methanol (9:1)) and is directly used further.

reactant | Z-Ala-ONP | 10.32 g | C[C@@H](C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])NC(=O)OCC2=CC=CC=C2 | C17H16N2O6
reactant | H-Pro-OtBu | 5.0 g | N1[C@H](C(=O)OC(C)(C)C)CCC1 | C9H17NO2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Z-Ala-Pro-OtBu | N([C@@H](C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C20H28N2O5
